*
*|DSPF 1.5
*
*|DATE "Sun Jan 14 16:31:25 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "DFFRX1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  DFFRX1 CK D Q QN RN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CK 5.06299e-16
*|P (CK X 0 0.9320 2.9080)
*|I (MX69/M0#g MX69/M0 g X 0 0.4750 0.8025)
*|I (MX72/M0#g MX72/M0 g X 0 0.4750 3.2375)
*|S (CK#7 0.4750 2.6500)
*|S (CK#8 0.9050 2.6500)
C1 MX72/M0#g VSS 5.27766e-17
C2 MX69/M0#g VSS 4.79737e-17
C3 CK#8 VSS 1.45574e-16
C4 CK#7 VSS 7.81525e-17
C5 CK VSS 1.81823e-16
Rg1 MX72/M0#g CK#7 169.942413 $W=0.15
Rg2 CK#7 MX69/M0#g 574.822449 $W=0.15
Rf3 CK#8 CK#7 47.376472 $W=0.17
Re4 CK CK#8 152.124039 $W=0.26
*
*|NET D 4.76803e-16
*|P (D X 0 0.9320 1.0320)
*|I (MX64/M0#g MX64/M0 g X 0 0.9050 0.8025)
*|I (MX66/M0#g MX66/M0 g X 0 0.9050 3.2375)
*|S (D#7 0.9050 1.2900)
*|S (D#8 0.9200 1.2900)
C6 MX66/M0#g VSS 3.83184e-17
C7 MX64/M0#g VSS 2.88994e-17
C8 D#7 VSS 1.09103e-16
C9 D VSS 3.00483e-16
Rg5 MX66/M0#g D#7 606.955750 $W=0.15
Rg6 D#7 MX64/M0#g 137.809082 $W=0.15
Rf7 D#8 D#7 16.129412 $W=0.17
Re8 D D#8 152.124039 $W=0.26
*
*|NET Q 7.96681e-16
*|P (Q X 0 7.8320 2.0520)
*|I (MX83/M0#d MX83/M0 d X 0 7.9795 0.9700)
*|I (MX78/M0#d MX78/M0 d X 0 7.9795 2.9850)
*|S (Q#2 7.8400 2.9450)
*|S (Q#3 7.8400 1.0050)
C10 MX83/M0#d VSS 1.20684e-16
C11 Q#3 VSS 2.04401e-16
C12 Q#2 VSS 3.65553e-16
C13 Q VSS 1.06044e-16
Rf9 MX78/M0#d Q#2 5.616868 $W=0.83
Rf10 Q#3 MX83/M0#d 8.423712 $W=0.485
Re11 Q Q#3 76.500420 $W=0.26
Re12 Q Q#2 51.091415 $W=0.26
*
*|NET QN 5.70968e-16
*|P (QN X 0 8.7520 2.0520)
*|I (MX58/M0#d MX58/M0 d X 0 8.5605 0.9700)
*|I (MX85/M0#d MX85/M0 d X 0 8.5605 2.9850)
*|S (QN#2 8.7000 2.9450)
*|S (QN#3 8.7000 1.0050)
C14 MX58/M0#d VSS 8.5764e-17
C15 QN#3 VSS 1.49046e-16
C16 QN#2 VSS 2.63805e-16
C17 QN VSS 7.23535e-17
Rf13 MX85/M0#d QN#2 5.616868 $W=0.83
Rf14 QN#3 MX58/M0#d 8.423712 $W=0.485
Re15 QN QN#3 76.489662 $W=0.26
Re16 QN QN#2 51.074699 $W=0.26
*
*|NET RN 1.48889e-15
*|P (RN X 0 6.9120 2.0520)
*|I (MX82/M0#g MX82/M0 g X 0 6.6750 0.8025)
*|I (MX59/M0#g MX59/M0 g X 0 2.6250 0.8025)
*|I (MX73/M0#g MX73/M0 g X 0 2.6250 3.2375)
*|I (MX57/M0#g MX57/M0 g X 0 6.6750 3.2375)
*|S (RN#13 2.7150 2.3100)
*|S (RN#14 6.6750 2.3100)
*|S (RN#15 6.9000 2.3100)
*|S (RN#16 6.6750 2.3100)
C18 MX57/M0#g VSS 5.04495e-17
C19 MX73/M0#g VSS 5.07176e-17
C20 MX59/M0#g VSS 4.90265e-17
C21 MX82/M0#g VSS 4.23803e-17
C22 RN#15 VSS 5.65283e-17
C23 RN#13 VSS 4.77704e-16
C24 RN#14 VSS 3.77517e-16
C25 RN VSS 3.84562e-16
Rg17 MX73/M0#g RN#13 278.354218 $W=0.15
Rg18 RN#13 MX59/M0#g 464.727570 $W=0.15
Rg19 MX57/M0#g RN#14 279.195740 $W=0.15
Rg20 RN#14 MX82/M0#g 465.569092 $W=0.15
Rf21 RN#15 RN#16 16.941177 $W=0.17
Rf22 RN#16 RN#13 313.164703 $W=0.17
Rf23 RN#14 RN#16 15.000000 $W=0.0289
Re24 RN RN#15 152.124039 $W=0.26
*
*|NET 1 1.05597e-16
*|I (MX64/M0#d MX64/M0 d X 0 0.9805 0.8025)
*|I (MX61/M0#s MX61/M0 s X 0 1.2595 0.8025)
*|S (1 1.1200 0.8000)
C26 1 VSS 1.05597e-16
Rmw25 MX64/M0#d 1 0.001000 $W=1000000
Rmw26 MX61/M0#s 1 0.001000 $W=1000000
*
*|NET 3 1.39748e-16
*|I (MX66/M0#d MX66/M0 d X 0 0.9805 3.2375)
*|I (MX62/M0#s MX62/M0 s X 0 1.2595 3.2375)
*|S (3 1.1200 3.2350)
C27 3 VSS 1.39748e-16
Rmw27 MX66/M0#d 3 0.001000 $W=1000000
Rmw28 MX62/M0#s 3 0.001000 $W=1000000
*
*|NET 5 1.01746e-16
*|I (MX88/M0#d MX88/M0 d X 0 2.1195 0.8025)
*|I (MX60/M0#s MX60/M0 s X 0 1.8405 0.8025)
*|S (5 1.9800 0.8000)
C28 5 VSS 1.01746e-16
Rmw29 MX88/M0#d 5 0.001000 $W=1000000
Rmw30 MX60/M0#s 5 0.001000 $W=1000000
*
*|NET 7 9.96363e-17
*|I (MX88/M0#s MX88/M0 s X 0 2.2705 0.8025)
*|I (MX59/M0#d MX59/M0 d X 0 2.5495 0.8025)
*|S (7 2.4100 0.8000)
C29 7 VSS 9.96363e-17
Rmw31 MX88/M0#s 7 0.001000 $W=1000000
Rmw32 MX59/M0#d 7 0.001000 $W=1000000
*
*|NET 9 1.05484e-16
*|I (MX81/M0#d MX81/M0 d X 0 5.2195 0.8025)
*|I (MX79/M0#s MX79/M0 s X 0 4.9405 0.8025)
*|S (9 5.0800 0.8000)
C30 9 VSS 1.05484e-16
Rmw33 MX81/M0#d 9 0.001000 $W=1000000
Rmw34 MX79/M0#s 9 0.001000 $W=1000000
*
*|NET 11 1.3554e-16
*|I (MX80/M0#d MX80/M0 d X 0 5.2195 3.2375)
*|I (MX63/M0#s MX63/M0 s X 0 4.9405 3.2375)
*|S (11 5.0800 3.2350)
C31 11 VSS 1.3554e-16
Rmw35 MX80/M0#d 11 0.001000 $W=1000000
Rmw36 MX63/M0#s 11 0.001000 $W=1000000
*
*|NET 17 2.41169e-15
*|I (MX87/M0#g MX87/M0 g X 0 4.4350 0.8025)
*|I (MX70/M0#d MX70/M0 d X 0 3.4995 0.8025)
*|I (MX60/M0#g MX60/M0 g X 0 1.7650 0.8025)
*|I (MX74/M0#d MX74/M0 d X 0 3.4995 3.2375)
*|I (MX63/M0#g MX63/M0 g X 0 4.8650 3.2375)
*|I (MX62/M0#g MX62/M0 g X 0 1.3350 3.2375)
*|S (17 1.3350 3.2375)
*|S (17#13 1.3350 2.6500)
*|S (17#14 1.7550 1.2900)
*|S (17#15 4.4350 1.2900)
*|S (17#16 4.8650 2.6500)
*|S (17#18 3.3600 3.0900)
*|S (17#19 3.3600 0.8500)
*|S (17#21 3.3600 2.6500)
*|S (17#23 5.0800 2.6500)
*|S (17#25 5.0800 1.2900)
*|S (17#27 3.3600 1.2900)
*|S (17#31 3.3600 1.2900)
C32 MX63/M0#g VSS 5.03299e-17
C33 MX60/M0#g VSS 4.42269e-17
C34 MX70/M0#d VSS 5.74853e-17
C35 MX87/M0#g VSS 4.60418e-17
C36 17#19 VSS 6.63424e-17
C37 17#27 VSS 3.05609e-16
C38 17#21 VSS 3.30379e-16
C39 17#18 VSS 2.17516e-16
C40 17#25 VSS 2.89348e-16
C41 17#23 VSS 2.4558e-16
C42 17#13 VSS 2.37247e-16
C43 17#14 VSS 2.12979e-16
C44 17#15 VSS 1.87978e-16
C45 17#16 VSS 6.84627e-17
C46 17 VSS 5.21625e-17
Rg37 17 17#13 169.942413 $W=0.15
Rg38 MX60/M0#g 17#14 133.085556 $W=0.15
Rg39 MX87/M0#g 17#15 152.809082 $W=0.15
Rg40 MX63/M0#g 17#16 169.942413 $W=0.15
Rf41 MX74/M0#d 17#18 25.917646 $W=0.17
Rf42 17#19 MX70/M0#d 18.764706 $W=0.17
Rf43 17#21 17#13 319.470581 $W=0.17
Rf44 17#23 17#16 31.188236 $W=0.17
Rf45 17#25 17#15 48.564705 $W=0.17
Rf46 17#15 17#27 80.941177 $W=0.17
Rf47 17#27 17#14 135.847061 $W=0.17
Re48 17#18 17#21 152.239136 $W=0.23
Re49 17#21 17#31 0.739130 $W=0.23
Re50 17#31 17#19 152.239136 $W=0.23
Re51 17#23 17#25 304.739136 $W=0.23
Re52 17#27 17#31 152.000000 $W=0.0289
Rmw53 MX62/M0#g 17 0.001000 $W=1000000
*
*|NET 20 1.40553e-15
*|I (MX88/M0#g MX88/M0 g X 0 2.1950 0.8025)
*|I (MX87/M0#s MX87/M0 s X 0 4.3595 0.8025)
*|I (MX65/M0#d MX65/M0 d X 0 4.0805 0.8025)
*|I (MX77/M0#s MX77/M0 s X 0 4.3595 3.2375)
*|I (MX68/M0#d MX68/M0 d X 0 4.0805 3.2375)
*|I (MX67/M0#g MX67/M0 g X 0 2.1950 3.2375)
*|S (20 2.1950 3.2375)
*|S (20#7 2.2350 1.6300)
*|S (20#9 4.2200 3.0900)
*|S (20#10 4.2200 0.8500)
*|S (20#12 4.2200 1.6300)
C47 MX87/M0#s VSS 8.98467e-17
C48 MX88/M0#g VSS 5.04765e-17
C49 20#10 VSS 1.28833e-16
C50 20#12 VSS 4.66734e-16
C51 20#9 VSS 3.56606e-16
C52 20#7 VSS 2.63572e-16
C53 20 VSS 4.94568e-17
Rg54 20 20#7 492.978882 $W=0.15
Rg55 20#7 MX88/M0#g 242.338882 $W=0.15
Rf56 MX77/M0#s 20#9 25.917646 $W=0.17
Rf57 20#10 MX87/M0#s 18.764706 $W=0.17
Rf58 20#12 20#7 316.458832 $W=0.17
Re59 20#9 20#12 152.793472 $W=0.23
Re60 20#12 20#10 152.423920 $W=0.23
Rmw61 MX65/M0#d MX87/M0#s 0.001000 $W=1000000
Rmw62 MX68/M0#d MX77/M0#s 0.001000 $W=1000000
Rmw63 MX67/M0#g 20 0.001000 $W=1000000
*
*|NET 24 1.63012e-15
*|I (MX79/M0#g MX79/M0 g X 0 4.8650 0.8025)
*|I (MX70/M0#g MX70/M0 g X 0 3.5750 0.8025)
*|I (MX69/M0#d MX69/M0 d X 0 0.3995 0.8025)
*|I (MX61/M0#g MX61/M0 g X 0 1.3350 0.8025)
*|I (MX77/M0#g MX77/M0 g X 0 4.4350 3.2375)
*|I (MX76/M0#g MX76/M0 g X 0 1.7650 3.2375)
*|I (MX74/M0#g MX74/M0 g X 0 3.5750 3.2375)
*|I (MX72/M0#d MX72/M0 d X 0 0.3995 3.2375)
*|S (24#19 1.5500 1.9700)
*|S (24#20 3.5150 1.9700)
*|S (24 4.6500 1.9700)
*|S (24#23 0.2600 3.0900)
*|S (24#24 0.2600 0.8500)
*|S (24#27 3.5150 1.9700)
*|S (24#28 1.5500 1.9700)
*|S (24#29 0.2600 1.9700)
C54 MX74/M0#g VSS 5.29876e-17
C55 MX76/M0#g VSS 5.19167e-17
C56 MX77/M0#g VSS 5.5007e-17
C57 MX61/M0#g VSS 4.07662e-17
C58 MX69/M0#d VSS 5.02855e-17
C59 MX70/M0#g VSS 5.01773e-17
C60 MX79/M0#g VSS 5.29245e-17
C61 24#24 VSS 1.25146e-16
C62 24#29 VSS 1.85555e-16
C63 24#23 VSS 2.09089e-16
C64 24#19 VSS 2.37601e-16
C65 24#20 VSS 3.26556e-16
C66 24 VSS 1.9211e-16
Rg64 MX76/M0#g 24#19 418.796082 $W=0.15
Rg65 24#19 MX61/M0#g 386.662750 $W=0.15
Rg66 MX74/M0#g 24#20 393.172607 $W=0.15
Rg67 24#20 MX70/M0#g 361.039276 $W=0.15
Rg68 MX79/M0#g 24 386.662750 $W=0.15
Rg69 24 MX77/M0#g 418.796082 $W=0.15
Rf70 MX72/M0#d 24#23 25.917646 $W=0.17
Rf71 24#24 MX69/M0#d 18.764706 $W=0.17
Rf72 24 24#27 100.458824 $W=0.17
Rf73 24#27 24#28 147.952942 $W=0.17
Rf74 24#28 24#29 249.129410 $W=0.17
Rf75 24#20 24#27 15.000000 $W=0.0289
Rf76 24#19 24#28 15.000000 $W=0.0289
Re77 24#23 24#29 152.608688 $W=0.23
Re78 24#29 24#24 152.608688 $W=0.23
*
*|NET 26 1.71584e-15
*|I (MX65/M0#g MX65/M0 g X 0 4.0050 0.8025)
*|I (MX61/M0#d MX61/M0 d X 0 1.4105 0.8025)
*|I (MX60/M0#d MX60/M0 d X 0 1.6895 0.8025)
*|I (MX76/M0#d MX76/M0 d X 0 1.6895 3.2375)
*|I (MX68/M0#g MX68/M0 g X 0 4.0050 3.2375)
*|I (MX62/M0#d MX62/M0 d X 0 1.4105 3.2375)
*|S (26 4.0050 3.2375)
*|S (26#7 4.0050 2.6500)
*|S (26#9 1.5500 3.0900)
*|S (26#10 1.5500 0.8500)
*|S (26#13 3.7900 2.6500)
C67 MX61/M0#d VSS 8.18548e-17
C68 MX65/M0#g VSS 5.38439e-17
C69 26#10 VSS 2.30837e-16
C70 26#9 VSS 6.90713e-16
C71 26#13 VSS 5.38813e-16
C72 26#7 VSS 6.84274e-17
C73 26 VSS 5.13551e-17
Rg79 26 26#7 169.942413 $W=0.15
Rg80 26#7 MX65/M0#g 574.822449 $W=0.15
Rf81 MX76/M0#d 26#9 177.917648 $W=0.17
Rf82 26#10 MX61/M0#d 18.764706 $W=0.17
Rf83 26#7 26#13 31.188236 $W=0.17
Re84 26#13 26#9 153.780991 $W=0.23
Re85 26#9 26#10 153.217392 $W=0.23
Rmw86 MX60/M0#d MX61/M0#d 0.001000 $W=1000000
Rmw87 MX68/M0#g 26 0.001000 $W=1000000
Rmw88 MX62/M0#d MX76/M0#d 0.001000 $W=1000000
*
*|NET 30 1.62659e-15
*|I (MX84/M0#d MX84/M0 d X 0 6.1695 0.8025)
*|I (MX83/M0#g MX83/M0 g X 0 8.0550 0.9700)
*|I (MX81/M0#g MX81/M0 g X 0 5.2950 0.8025)
*|I (MX71/M0#g MX71/M0 g X 0 7.1050 0.8025)
*|I (MX86/M0#d MX86/M0 d X 0 6.3205 3.2375)
*|I (MX80/M0#g MX80/M0 g X 0 5.2950 3.2375)
*|I (MX78/M0#g MX78/M0 g X 0 8.0550 2.9850)
*|I (MX75/M0#g MX75/M0 g X 0 7.1050 3.2375)
*|I (MX57/M0#d MX57/M0 d X 0 6.5995 3.2375)
*|S (30 7.1050 3.2375)
*|S (30#19 5.3550 1.9700)
*|S (30#20 7.1650 1.9700)
*|S (30#21 7.9950 1.9700)
*|S (30#22 6.0300 0.8500)
*|S (30#25 6.4600 3.2050)
*|S (30#27 7.1650 1.9700)
*|S (30#28 6.4600 1.9700)
*|S (30#31 6.4600 1.9700)
C74 MX78/M0#g VSS 7.5789e-17
C75 MX80/M0#g VSS 5.63562e-17
C76 MX71/M0#g VSS 4.68942e-17
C77 MX81/M0#g VSS 5.14426e-17
C78 MX83/M0#g VSS 6.54911e-17
C79 MX84/M0#d VSS 6.21714e-17
C80 30#22 VSS 1.75035e-16
C81 30#28 VSS 3.56905e-16
C82 30#25 VSS 2.61111e-16
C83 30#19 VSS 1.70756e-16
C84 30#20 VSS 1.31305e-16
C85 30#21 VSS 1.2236e-16
C86 30 VSS 5.09737e-17
Rg89 MX80/M0#g 30#19 393.172607 $W=0.15
Rg90 30#19 MX81/M0#g 361.039276 $W=0.15
Rg91 30 30#20 393.172607 $W=0.15
Rg92 30#20 MX71/M0#g 361.039276 $W=0.15
Rg93 MX78/M0#g 30#21 312.035950 $W=0.15
Rg94 30#21 MX83/M0#g 307.215942 $W=0.15
Rf95 30#22 MX84/M0#d 18.764706 $W=0.17
Rf96 MX86/M0#d 30#25 17.258823 $W=0.17
Rf97 30#21 30#27 77.494118 $W=0.17
Rf98 30#27 30#28 53.082352 $W=0.17
Rf99 30#28 30#19 98.199997 $W=0.17
Rf100 30#20 30#27 15.000000 $W=0.0289
Re101 30#25 30#31 76.671196 $W=0.23
Re102 30#31 30#22 152.757996 $W=0.23
Re103 30#28 30#31 152.000000 $W=0.0289
Rmw104 MX75/M0#g 30 0.001000 $W=1000000
Rmw105 MX57/M0#d MX86/M0#d 0.001000 $W=1000000
*
*|NET 32 1.29947e-15
*|I (MX87/M0#d MX87/M0 d X 0 4.5105 0.8025)
*|I (MX84/M0#g MX84/M0 g X 0 6.2450 0.8025)
*|I (MX79/M0#d MX79/M0 d X 0 4.7895 0.8025)
*|I (MX86/M0#g MX86/M0 g X 0 6.2450 3.2375)
*|I (MX77/M0#d MX77/M0 d X 0 4.5105 3.2375)
*|I (MX63/M0#d MX63/M0 d X 0 4.7895 3.2375)
*|S (32 6.1850 1.6300)
*|S (32#9 4.6500 3.0900)
*|S (32#10 4.6500 0.8500)
*|S (32#13 4.6500 1.6300)
C87 MX86/M0#g VSS 5.65874e-17
C88 MX84/M0#g VSS 4.08758e-17
C89 MX87/M0#d VSS 8.87118e-17
C90 32#10 VSS 1.34909e-16
C91 32#13 VSS 4.73437e-16
C92 32#9 VSS 3.31374e-16
C93 32 VSS 1.73578e-16
Rg106 MX86/M0#g 32 502.425934 $W=0.15
Rg107 32 MX84/M0#g 251.785934 $W=0.15
Rf108 MX77/M0#d 32#9 25.917646 $W=0.17
Rf109 32#10 MX87/M0#d 18.764706 $W=0.17
Rf110 32 32#13 282.576477 $W=0.17
Re111 32#9 32#13 152.793472 $W=0.23
Re112 32#13 32#10 152.423920 $W=0.23
Rmw113 MX79/M0#d MX87/M0#d 0.001000 $W=1000000
Rmw114 MX63/M0#d MX77/M0#d 0.001000 $W=1000000
*
*|NET 37 1.25023e-15
*|I (MX71/M0#d MX71/M0 d X 0 7.1805 0.8025)
*|I (MX58/M0#g MX58/M0 g X 0 8.4850 0.9700)
*|I (MX85/M0#g MX85/M0 g X 0 8.4850 2.9850)
*|I (MX75/M0#d MX75/M0 d X 0 7.1805 3.2375)
*|S (37 8.5450 1.6300)
*|S (37#9 7.3200 3.2050)
*|S (37#10 7.3200 0.9350)
*|S (37#13 7.3200 1.6300)
C94 MX85/M0#g VSS 7.49767e-17
C95 MX58/M0#g VSS 5.35003e-17
C96 MX71/M0#d VSS 9.21705e-17
C97 37#10 VSS 1.52781e-16
C98 37#13 VSS 3.61886e-16
C99 37#9 VSS 3.51218e-16
C100 37 VSS 1.63693e-16
Rg115 MX85/M0#g 37 421.289246 $W=0.15
Rg116 37 MX58/M0#g 197.962601 $W=0.15
Rf117 MX75/M0#d 37#9 17.258823 $W=0.17
Rf118 37#10 MX71/M0#d 25.164705 $W=0.17
Rf119 37 37#13 259.235291 $W=0.17
Re120 37#9 37#13 76.855980 $W=0.23
Re121 37#13 37#10 76.377716 $W=0.23
*
*|NET 41 5.42312e-16
*|I (MX76/M0#s MX76/M0 s X 0 1.8405 3.2375)
*|I (MX73/M0#d MX73/M0 d X 0 2.7005 3.2375)
*|I (MX67/M0#d MX67/M0 d X 0 2.1195 3.2375)
*|S (41#2 1.9800 3.0900)
*|S (41 2.8400 3.0900)
C101 MX76/M0#s VSS 5.08363e-19
C102 41#2 VSS 2.83168e-16
C103 41 VSS 2.58636e-16
Rf122 MX76/M0#s 41#2 25.917646 $W=0.17
Rf123 MX73/M0#d 41 25.917646 $W=0.17
Re124 41 41#2 304.579224 $W=0.17
Rmw125 MX67/M0#d MX76/M0#s 0.001000 $W=1000000
*
*|NET 46 9.48283e-17
*|I (MX84/M0#s MX84/M0 s X 0 6.3205 0.8025)
*|I (MX82/M0#s MX82/M0 s X 0 6.5995 0.8025)
*|S (46 6.4600 0.8000)
C104 46 VSS 9.48283e-17
Rmw126 MX84/M0#s 46 0.001000 $W=1000000
Rmw127 MX82/M0#s 46 0.001000 $W=1000000
*
*Instance Section
*
MX88/M0	MX88/M0#d	MX88/M0#g	MX88/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX87/M0	MX87/M0#d	MX87/M0#g	MX87/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX84/M0	MX84/M0#d	MX84/M0#g	MX84/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX83/M0	MX83/M0#d	MX83/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX82/M0	VSS	MX82/M0#g	MX82/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX81/M0	MX81/M0#d	MX81/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX79/M0	MX79/M0#d	MX79/M0#g	MX79/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX71/M0	MX71/M0#d	MX71/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX70/M0	MX70/M0#d	MX70/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX69/M0	MX69/M0#d	MX69/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX65/M0	MX65/M0#d	MX65/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX64/M0	MX64/M0#d	MX64/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX61/M0	MX61/M0#d	MX61/M0#g	MX61/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX60/M0	MX60/M0#d	MX60/M0#g	MX60/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX59/M0	MX59/M0#d	MX59/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX58/M0	MX58/M0#d	MX58/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX86/M0	MX86/M0#d	MX86/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX85/M0	MX85/M0#d	MX85/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX80/M0	MX80/M0#d	MX80/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX78/M0	MX78/M0#d	MX78/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX77/M0	MX77/M0#d	MX77/M0#g	MX77/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX76/M0	MX76/M0#d	MX76/M0#g	MX76/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX75/M0	MX75/M0#d	MX75/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX74/M0	MX74/M0#d	MX74/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX73/M0	MX73/M0#d	MX73/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX72/M0	MX72/M0#d	MX72/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX68/M0	MX68/M0#d	MX68/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX67/M0	MX67/M0#d	MX67/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX66/M0	MX66/M0#d	MX66/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX63/M0	MX63/M0#d	MX63/M0#g	MX63/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX62/M0	MX62/M0#d	MX62/M0#g	MX62/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX57/M0	MX57/M0#d	MX57/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
.ENDS
